US07790793B2
Preparation of N-(3-methylbutyl)-3,5-bis-(cyclohexanecarbonylamino)-benzamide
from 0.63 g (2.85 mmol) of 3,5-diamino-N-(3-methylbutyl)-benzamide, 0.97 g (6.62 mmol) of cyclohexanecarbonylchloride, 30 ml of NMP, 5 ml of pyridine and 0.05 g of LiCl according to Method A.

reactant | 3,5-diamino-N-(3-methylbutyl)-benzamide | 2.85 mmol, 0.63 g | NC=1C=C(C(=O)NCCC(C)C)C=C(C1)N | C12H19N3O
reactant | cyclohexanecarbonylchloride | 6.62 mmol, 0.97 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | NMP | 30 ml | CN1CCCC1=O | C5H9NO
reactant | LiCl | 0.05 g | [Li+].[Cl-]
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-methylbutyl)-3,5-bis-(cyclohexanecarbonylamino)-benzamide | CC(CCNC(C1=CC(=CC(=C1)NC(=O)C1CCCCC1)NC(=O)C1CCCCC1)=O)C | C26H39N3O3
